Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fevers
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with recent diagnosis of follicular lymphoma, not actively 
being treated, who presented with fever and mid-epigastric 
abdominal pain.

She reports fevers that started a few days ago. She did not 
notice any particular pattern to the fevers. She denies chills 
but does endorse night sweats during the same time period, 
waking up with the sheets soaked. She also had a mild headache, 
now resolved.

Then yesterday she developed epigastric/RUQ pain. The pain is 
constant but mostly only noticeable with pressure or deep 
breathing. She reports nausea but denies vomiting, diarrhea, or 
constipation. She denies cough or dyspnea as well.

She denies any recent travel. She does have a family member who 
was recently sick with a URI but no other sick contacts. She 
does not have any hardware in place. She lives in ___ and 
___ to garden but has not noticed any recent tick bites. She 
denies rash or joint pain.

She was diagnosed with SLL by lymph node biopsy after she 
presented with lymphadenopathy. She has not required treatment.
 
In the ED, initial vitals: 101.3 F (also tmax), BP 100/60s, HR 
___, RR 16, 99% RA. 
Labs were significant for: WBC 2.9 with ANC in the ___  
Imaging showed: no acute intraabdominal pathology and 
atelectasis b/l  
In the ED, she received: Tylenol, IV vanc and CTX x1, 2 L NS. 
 
Past Medical History:
Follicular lymphoma, not actively being treated
 
Social History:
___
Family History:
Cancer in grandfathers in their ___ (gastric, throat)
 
Physical Exam:
Admission Physical Exam:
========================
VS: 98.8 98/48 72 16 95 RA  
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, tender to palpation over RUQ and epigastrium with 
voluntary guarding but no rigidity  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal

Discharge Physical Exam:
========================
VS: 98.1PO 113 / 68 65 17 98 RA 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, tender to palpation over RUQ and epigastrium with 
voluntary guarding but no rigidity  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal 
 
Pertinent Results:
Admission Labs:
===============
___ 09:55AM BLOOD WBC-2.9* RBC-4.23 Hgb-13.3 Hct-39.5 
MCV-93 MCH-31.4 MCHC-33.7 RDW-12.5 RDWSD-43.3 Plt Ct-63*
___ 09:55AM BLOOD Neuts-87* Bands-6* Lymphs-6* Monos-1* 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-2.70 AbsLymp-0.17* 
AbsMono-0.03* AbsEos-0.00* AbsBaso-0.00*
___ 09:55AM BLOOD ___ PTT-30.5 ___
___ 09:55AM BLOOD Glucose-92 UreaN-16 Creat-0.8 Na-137 
K-3.6 Cl-99 HCO3-24 AnGap-18
___ 09:55AM BLOOD ALT-32 AST-41* AlkPhos-224* TotBili-0.3
___ 09:55AM BLOOD Lipase-66*
___ 09:55AM BLOOD Albumin-3.9
___ 04:23AM BLOOD Calcium-8.0* Phos-3.4 Mg-1.8
___ 10:12AM BLOOD Lactate-0.7

Imaging:
========
___ CXR:
Small dense opacity at the left costophrenic angle, may 
represent atelectasis, but pneumonia should be considered if the 
patient has infectious symptoms.

___ CT Abd/Pelvis with Contrast:
No bowel obstruction or lymphadenopathy.  No CT findings 
correlating to
reported history of abdominal pain.

___ RUQ US:
1.  Mild nonspecific gallbladder wall edema without other 
evidence to suggest acute cholecystitis.  No extra or 
intrahepatic biliary ductal dilation.
2.  Trace ascites and small right pleural effusion.

Discharge Labs:
===============
___ 04:36AM BLOOD WBC-2.9* RBC-3.86* Hgb-11.8 Hct-35.6 
MCV-92 MCH-30.6 MCHC-33.1 RDW-13.0 RDWSD-43.8 Plt Ct-68*
___ 04:36AM BLOOD Neuts-57 Bands-0 ___ Monos-14* 
Eos-0 Baso-0 Atyps-2* ___ Myelos-0 AbsNeut-1.65 
AbsLymp-0.84* AbsMono-0.41 AbsEos-0.00* AbsBaso-0.00*
___ 04:36AM BLOOD Glucose-93 UreaN-7 Creat-0.8 Na-140 K-4.5 
Cl-104 HCO3-28 AnGap-13
___ 04:36AM BLOOD ALT-32 AST-41* LD(LDH)-209 AlkPhos-215* 
TotBili-<0.2
___ 04:36AM BLOOD Calcium-8.1* Phos-4.0 Mg-1.___ with recent diagnosis of follicular lymphoma who presented 
with fever and mid-epigastric abdominal pain.

# Viral infection: febrile to 101.3. She had no localizing 
symptoms apart from epigastric abdominal pain. CT abdomen/pelvis 
was negative for any source of infection or explanation for 
pain. RUQ revealed mild non-specific gallbladder wall edema 
without evidence of cholecystitis. Given epigastric pain, EKG 
was obtained and was without ischemic changes. Troponin was 
normal. AST, alkaline phosphatase, and lipase were mildly 
elevated in a non-specific pattern.
She also presented with new onset leukopenia to 2.9 and a 
platelet count reduced to 63 from a normal baseline. 
Differential was notable for a neutrophilic predominance along 
with 6% bands. Hematology reviewed a blood smear which was 
consistent with acute infection given multiple toxic 
granulations. There was no evidence of lymphoma in the 
peripheral blood.
On arrival to the ED she was noted to be hypotensive to 82 
systolic. Hypotension resolved with fluids. Due to concern for 
developing sepsis, she was initially treated with vanc/zosyn for 
broad empiric coverage. Antibiotics were discontinued after 
clinical condition remained stable and repeat imaging with RUQ 
US was negative for bacterial infection.
Blood and urine cultures were sent and were negative. Serologies 
for Lyme and Anaplasma were negative and parasite smear was 
normal. ___ was obtained given recent travel to ___ and was also negative.
Ultimately, her fever and abdominal pain were attributed to a 
viral infection. She was discharged after developing monocytosis 
suggested recovering cell counts and her abdominal pain 
improved.

Transitional Issues:
- needs repeat CBC this week to ensure that leukopenia and 
thrombocytopenia are resolving
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO Frequency is Unknown 
2. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO BID  
2.  Vitamin D 1000 UNIT PO DAILY  
3.Outpatient Lab Work
R50.9 Fever, unspecified
Please draw CBC, AST, ALT, Alk Phos, Total bilirubin with 
differential and fax results to Dr. ___ at 
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Acute viral illness unspecified

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came into the hospital because you were having fevers and 
abdominal pain. We also found that your blood counts were low.

You had a CT scan of your abdomen and an ultrasound which did 
not show any sign of infection. We treated you with antibiotics 
but then stopped these once we thought that you did not have a 
bacterial infection.

We think your symptoms were probably from a virus, which will 
resolve on its own.

It was a pleasure taking care of you, and we are happy that you 
are feeling better!
 
Followup Instructions:
___